Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
disposable gloves / Penicillins / Tetracycline Analogues / 
metformin / doxycycline / codeine / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old woman w/PMH HTN, HLD, DM, presenting with chest 
pain. Chest pain started at 9am this morning. She describes the 
pain as pressure in the ___ her chest, ___ this morning 
and ___ currently. She had associated shortness of breath at 
onset of the pain and has noticed that the pain radiated to her 
left arm. She was sitting when the pain started. She works in a 
pediatrics office and one of her coworkers took her temperature 
after the
onset of her chest pain and noted that she had fevers to 102 and 
chills. This prompted her to present to her PCP where based on 
her constellation of symptoms, an EKG was taken and she received 
ASA 325 and was referred to the ED. 

In the ED:
- Initial vital signs were notable for: T 99.3 HR 108 BP 154/90
RR 22 Pox 100% RA
- Exam notable for: well appearing, NAD, cor RRR, no m/r/g, no
chest wall tenderness, LCTAB
- Labs were notable for:
WBC 12.3 Hgb 10.8 SCr 1.2 ALT 186 AST 226 ALP 183 Trop-T <0.01
lactate 1.7
- Studies performed include:
CXR:
Subtle linear densities in the left lower lung likely 
atelectasis, difficult 
to exclude an early pneumonia in the correct clinical setting. 

US liver:
1. Echogenic appearance of the liver suggests fatty deposition. 
Please note, based on this appearance, more advanced forms of
liver disease cannot be excluded. 
2. Normal gallbladder. 

- Patient was given:
1L NS, SL nitro 0.4mg
- Consults: None

Vitals on transfer: T 99 HR 87 BP 129/70 RR 19 Pox 96% RA 

Upon arrival to the floor, patient is complaining of nausea. She 
states that her chest pain has improved after administration of 
SL nitro. She endorses the above history. She denies recent 
travel, cough, rhinorrhea, sore throat, headache, vision 
changes, aches/pains, abdominal pain, diarrhea or constipation, 
or dysuria. She has had multiple sick contacts due to the nature 
of her occupation.

 
Past Medical History:
PMH:  
- HTN
- glucose intolerence, ? type 2 DM (being worked up)
- hx of bronchitis

PSH:  
- bilatera salpingectomy for ectopic pregnancies
- supracervical hysterectomy

POB/GYNHx:  NSVD x 1, bilateral ectopic pregnancies as above, 
last pap ___, last mammogram ___ yrs ago
 
Social History:
___
Family History:
Mother - episode of syncope, found to have irregular heart 
rhythm
No other known family history of cardiac disease.
 
Physical Exam:
ADMISSION
=========
VITALS: 24 HR Data (last updated ___ @ ___)
    Temp: 97.9 (Tm 97.9), BP: 159/82, HR: 99, RR: 18, O2 sat:
98%, O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing or cyanosis. 1+ pitting edema b/l ___.
Pulses DP 2+ bilaterally.
NEUROLOGIC: Face symmetric, moving all extremities 
spontaneously.
AOx3.

DISCHARGE
=========
VITALS: ___ 0007 Temp: 98.9 PO BP: 129/88 HR: 90 RR: 18 O2
sat: 99% O2 delivery: Ra 
GENERAL: Alert and oriented, no acute distress
ENT: NT/AC, MMM, EOMI
CV: RRR, no murmurs, rubs, or gallops
RESP: CTAB, normal work of breathing
GI: NT/ND, BS+
EXT: Warm and well perfused, non-edematous
NEURO: CNII-XII grossly intact, no focal neurologic deficits
 
Pertinent Results:
ADMISSION
=========
___ 05:45PM   ___ PTT-23.8* ___
___ 05:45PM   WBC-12.3* RBC-4.04 HGB-10.8* HCT-34.9 MCV-86 
MCH-26.7 MCHC-30.9* RDW-16.4* RDWSD-52.0*
___ 05:45PM   NEUTS-81.0* LYMPHS-7.9* MONOS-9.1 EOS-1.4 
BASOS-0.2 IM ___ AbsNeut-10.00* AbsLymp-0.97* AbsMono-1.12* 
AbsEos-0.17 AbsBaso-0.02
___ 05:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 05:45PM   ALBUMIN-4.0 CALCIUM-9.6 PHOSPHATE-2.5* 
MAGNESIUM-1.8
___ 05:45PM   cTropnT-<0.01
___ 05:45PM   LIPASE-64*
___ 05:45PM   ALT(SGPT)-186* AST(SGOT)-226* ALK PHOS-182* 
TOT BILI-0.9
___ 05:45PM   GLUCOSE-115* UREA N-21* CREAT-1.2* SODIUM-139 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-16* ANION GAP-18
___ 09:26PM   LACTATE-1.7

DISCHARGE
=========
___ 07:10AM BLOOD WBC-7.3 RBC-3.87* Hgb-10.5* Hct-32.7* 
MCV-85 MCH-27.1 MCHC-32.1 RDW-16.4* RDWSD-51.0* Plt ___
___ 07:10AM BLOOD Glucose-110* UreaN-20 Creat-1.1 Na-144 
K-4.0 Cl-107 HCO3-25 AnGap-12

IMAGING
=======
___ CXR:
Subtle linear densities in the left lower lung likely 
atelectasis, difficult to exclude an early pneumonia in the 
correct clinical setting.

___ Abdominal US:
1. Echogenic appearance of the liver suggests fatty deposition. 
Please note, based on this appearance, more advanced forms of 
liver disease cannot be excluded. 
2. Normal gallbladder. 

___ ETT:
IMPRESSION: No anginal type symptoms or ischemic EKG changes.

 
Brief Hospital Course:
___ year old woman w/PMH HTN, DM, who presented with 
fever/chills, chest pain and shortness of breath. Chest pain/SOB 
concerning for unstable angina given quality of pain and risk 
factors for CAD. EKG/trop/stress test ruled out ACS and coronary 
disease. Fevers/leukocytosis in the absence of localizing 
infectious sx points towards a viral etiology which is likely to 
explain transaminitis that improved on repeat. Just fatty 
changes noted on RUQUS. 

ACUTE ISSUES:
=============
# Chest pain
# Dyspnea:
Presented with constellation of symptoms concerning for ACS 
given chest pressure with SOB at rest. No pleuritic component to 
pain. Chest pain improved with administration of SL nitro. 
Reassuringly, EKGs have been without ischemic changes and 
troponin <0.01 x3. Given HEART score of 4 iso risk factors, 
patient sent for exercise stress EKG which showed no ischemic 
changes (was a diagnostic stress because reached appropriate 
HR). No recurrence of chest pressure. Continued atorvastatin 
20mg daily and started aspirin 81 daily on discharge given age 
and presence of diabetes. 

# Fever/chills
# Leukocytosis:
Patient presented with infectious signs/symptoms of fever, 
chills and leukocytosis. CXR with possible area of focal 
consolidation in LLL, though based on history, patient has 
lacked other classical symptoms (especially productive cough) 
associated with PNA. No other localizing infectious symptoms. 
Satting well on room air with stable hemodynamics and remained 
afebrile. Leukocytosis improved with one dose CTX/azithro and 
given lack of localizing sx, stopped antibiotic course. Flu was 
not checked given improvement in symptoms but would not have 
changed management as Tamiflu unlikely to help. 

# Elevated LFTs:
New LFT abnormalities on presentation. RUQUS showing hepatic 
steatosis, no other frank liver pathology. Could potentially be 
related to viral illness as patient has had fever/chills. 
Improved on recheck. NAFLD is also possible as etiology for 
transaminitis but elevation seems to be more acute. Needs Hep B 
vaccine as outpatient(HepBsAg and HepBcAh negative, HBsAb 
negative). ___ Ab positive, and ___ IgM pending on discharge 
(less concerned for acute infection given improvement in sx and 
lack of nausea/vomiting/diarrhea). 

CHRONIC ISSUES:
===============
# CKD:
Creatinine was at baseline 1.2 and improved to 1.1 on repeat 

# HTN:
Continued losartan-hydrochlorothiazide 100-25 mg oral DAILY and 
amLODIPine 10 mg PO DAILY 

# HLD:
Continued atorvastatin 20mg qPM

# DMII:
Held home glimepiride 4mg BID, continued ISS while in house

TRANSITIONAL ISSUES
====================
Discharge AST/ALT/AP/Tbili: 98/149/168/0.7
Discharge WBC: 7.3
Discharge Hgb: 10.5
Discharge INR: 1.1

[] Recheck LFTs at next primary care doctor appointment 
[] Needs Hep B vaccine (HepBsAg and HepBcAh negative, HBsAb 
negative)
[] ___ Ab positive, ___ IgM pending on discharge 
[] Check A1c at next visit as last check was around 7% as per 
patient report
[] Added aspirin 81mg daily to medication list given age and 
diabetes 
[] Monitor for pulmonary symptoms with concern for possible 
post-viral development of bacterial pneumonia; not concerned for 
this on discharge 

#CODE: Full (presumed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. glimepiride 4 mg oral BID 
4. losartan-hydrochlorothiazide 100-25 mg oral DAILY 
5. TraZODone 50 mg PO QHS:PRN insomnia 
6. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  glimepiride 4 mg oral BID  
5.  losartan-hydrochlorothiazide 100-25 mg oral DAILY  
6.  TraZODone 50 mg PO QHS:PRN insomnia  
7.Outpatient Lab Work
Please check LFTs (AST/ALT/alk phos/tbili) at next primary care 
visit. Fax results to Dr. ___ at ___ 
ICD10: ___.0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Chest pain/shortness of breath
Fevers

SECONDARY DIAGNOSES
====================
Chronic kidney disease
Hypertension
Hyperlipidemia
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

WHY YOU WERE ADMITTED
- You were having chest pain and shortness of breath

WHAT WE DID FOR YOU 
- You received nitroglycerin under your tongue that improved 
your symptoms
- You had blood tests and an EKG that ruled out an acute heart 
attack
- You had a stress test that ruled out heart disease
- Your liver numbers were elevated but you had an ultrasound 
that did not show any gallbladder disease. It did show fatty 
deposition in the liver that can cause liver disease in the 
future, but can be treated with weight loss 

WHAT YOU SHOULD DO WHEN YOU LEAVE
- Please take your medications and follow up with your primary 
care doctor 
- Please monitor for symptoms and return to the hospital if you 
are experiencing worsened chest pain, shortness of breath, 
palpitations, dizziness, abdominal pain, 
It was a pleasure caring for you!

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___